### PR TITLE
some random stuff

### PR DESCRIPTION
**Pull request by jjaassoonn**
- Consider two commutative rings `R` and `S` and `X` and `(R, S)`-bimodule.
Consider the tensor functor `(X ⊗[R] .)` from the category of `R`-modules to the category of `S`-modules and the hom functor `X →ₗ[S] .` from the category of `S`-modules to the category of `R`-modules, they form an adjunction.

- direct limits of modules commute with tensor product

- A proof of 00HD

Three definitions for flatness:

1. in terms of injectiveness
```lean
def Flat.injective : Prop :=
∀ ⦃N N' : ModuleCat.{u} R⦄ (L : N ⟶ N'),
  Function.Injective L → Function.Injective ((tensorRight (ModuleCat.of R M)).map L)
```
2. in terms of ideals
```lean
def Flat.ideal : Prop :=
  ∀ (I : Ideal R), Function.Injective (TensorProduct.lift ((lsmul R M).comp I.subtype))
```
3. in terms of finitely generated ideal
```lean
def Flat.fg_ideal : Prop :=
  ∀ ⦃I : Ideal R⦄ (_ : I.FG), Function.Injective (TensorProduct.lift ((lsmul R M).comp I.subtype))
```

and they are all equivalent:

```lean
lemma tfae : List.TFAE
    [ Flat.injective R M,
      Flat.ideal R M,
      Flat.fg_ideal R M ] := by
```

The dependencies between these changed files are:
```
Algebra.Module.LinearMap---------------------------------
  |                                                       |
  |                                                       |
  v                                                      v
Algebra.Category.ModuleCat.TensorProduct -----> Algebra.Character
                                                           |
                                                           |
                                                           |
                                                           v
Algebra.DirectLimitAndTensorProduct ------------->  RingTheory.Flat
```

to prove equivalence of other definitions, e.g. exact functor, tor, etc should be easier with this because the proof is will be categorical

---

-------------

Some other stuff not about flatness

1. If $S$ is a submonoid and $I$ is maximally disjoint from $S$ then $I$ is prime
2. if $\mathfrak p$ is a minimal prime, then $x \in \mathfrak p$ implies that $x$ is a zero divisor
3. Noetherian rings has only finitely many minimal ideals
4. One version of [the prime avoidance lemma](https://en.wikipedia.org/wiki/Prime_avoidance_lemma): if $E$ is an addsubgroup of a ring and is mutiplicatively closed, and $\mathfrak p_i$ is some prime ideals, then not being any subset of the individual prime ideal implies that not being a subset of their union

----------

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean [hunk 1]
```diff
@@ -0,0 +1,179 @@
...
+def tensorFunctor : ModuleCat.{v} R ⥤ ModuleCat.{v} S where
+  obj Y := ModuleCat.of S <| X ⊗[R] Y
+  map {Y Y'} l := let L := TensorProduct.map LinearMap.id l
+  { L with
+    map_smul' := fun s x => x.induction_on
+      (show L _ = s • L _ by rw [smul_zero, map_zero, smul_zero])
+      (fun x y => show L _ = s • L _ by rw [smul_tmul', map_tmul, map_tmul, LinearMap.id_apply,
+        smul_tmul', LinearMap.id_apply])
+      (fun x y (hx : L _ = s • L _) (hy : L _ = s • L _) => show L _ = s • L _ by
+        rw [smul_add, map_add, hx, hy, map_add, smul_add]) }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean:45]: Is this `TensorProduct.AlgebraTensorModule.map`?

File: Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean [hunk 2]
```diff
@@ -0,0 +1,179 @@
...
+    | _, _, Eqv.of_zero_right _ => by
+      simp only [homFunctor_obj, FreeAddMonoid.lift_eval_of, map_zero, LinearMap.zero_apply]
+    | _, _, Eqv.of_add_left _ _ _ => by
+      simp only [homFunctor_obj, map_add, FreeAddMonoid.lift_eval_of]
+    | _, _, Eqv.of_add_right _ _ _ => by
+      simp only [homFunctor_obj, map_add, FreeAddMonoid.lift_eval_of, LinearMap.add_apply]
+    | _, _, Eqv.of_smul _ _ _ => by
+      simp [l.map_smul, LinearMap.bimodule_smul_apply]
+    | _, _, Eqv.add_comm p q => by
+      simp [map_add, add_comm]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean:116]: You're looking for `TensorProduct.AlgebraTensorModule.curry` I think

File: Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean:45]: I think so, except that `LinearAlgebra.TensorProduct.Tower` assumes some Algebra instances: in my notation it assumes `Algebra R S`, so there is a ring homomorphism which I don't have

Comment (eric-wieser) [reply Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean]: I think that's probably an indication that the results in `Tower` are in the wrong generality.

File: Mathlib/RingTheory/Flat.lean [hunk 3]
```diff
@@ -45,37 +52,480 @@ This result is not yet formalised.
...
+
+end ideal_of_fg_ideal
+
+lemma ideal_of_fg_ideal (fg_ideal : Flat.fg_ideal R M) : Flat.ideal R M :=
+  ideal_of_fg_ideal.main fg_ideal
+
+lemma tfae : List.TFAE
+    [ Flat.injective R M,
+      Flat.ideal R M,
+      Flat.fg_ideal R M ] := by
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/Flat.lean:501]: 3 definitoins of flatness are equivalent

File: Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/ModuleCat/TensorProduct.lean]: In `Tower` file, `curry` is a function in the form $M \otimes_R N \to P$ to $M \to_l[A] \to\_l[R] P$ wher $M$ is an $A, R$ bimodule and $N$ an $R$ module and $P$ an $R, A$ bimodule. I think the correct generality is the following:

$M$ is an $R, A$ bimodule and $N$ an $R$ module and $P$ an $A$ module then
$Hom_A(N \otimes[R] M, P) \cong Hom_R(N, Hom_A(M, P))$.

Note that this "flips" `curry` and `uncurry`

so I am not sure if this is what we want in the `Tower` file

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
